US04468402
To 100 ml of ethanol was added 2.0 g of 6-ethoxycarbonyl-3,4-dihydrocarbostyril, 0.5 g of sodium ethylate and 1.6 g of benzylpiperazine, the mixture was reacted in an autoclave under 110 atmospheric pressure at 140°-150° C. for 6 hours. After the reaction was completed, the reaction mixture was cooled and concentrated under a reduced pressure. The residue thus obtained was dissolved in 200 ml of chloroform and the chloroform solution was washed with 1%-potassium carbonate aqueous solution, a diluted hydrochloric acid and water in this order, then dried with anhydrous sodium sulfate. The solvent was removed by distillation and the residue was treated by means of a silica gel column chromatography (Silica gel: Wako C-200, eluate:chloroform:methanol (volume/volume)=20:1) and the crude crystals were recrystallized from ethanol to obtain 300 mg of 6-(4-benzyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril. Colorless needle-like crystals. Melting point: 198°-200° C.

reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 6-ethoxycarbonyl-3,4-dihydrocarbostyril | 2.0 g | C(C)OC(=O)C=1C=C2CCC(NC2=CC1)=O | C12H13NO3
reactant | sodium ethylate | 0.5 g | CC[O-].[Na+]
reactant | benzylpiperazine | 1.6 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-benzyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril | 300 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C21H23N3O2
